US04144344
With vigorous stirring, a solution of 117 ml of a 20% phosgene solution in toluene is added dropwise at a reaction temperature of 5° to 10° C to an emulsion of 10 g of 1-[2-hydroxy-3-(2-methoxyphenyloxy)-propyl]-4-(2-anilino-ethylamino)-piperidine in 60 ml of toluene and 37.5 ml of a 3N aqueous sodium hydroxide solution over 11/4 hours. Thereafter 35.5 ml of a 6N aqueous potassium hydroxide solution are added dropwise at the same reaction temperature in the course of half an hour. Stirring is continued for 30 minutes at 5° to 10° C and for 20 hours at room temperature. The reaction mixture is filtered with suction and the crystalline residue is treated with toluene. Recrystallisation from isopropanol yields 1-{1-[2-hydroxy-3-(2-methoxy-phenyloxy)-propyl]-4-piperidyl}-3-phenyl-imidazolidin-2-one-hydrochloride in the form of white crystals with a melting point of 185°- 187° C. The salt can be converted into the free compound for example by treatment with an aqueous sodium hydroxide solution.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 1-[2-hydroxy-3-(2-methoxyphenyloxy)-propyl]-4-(2-anilino-ethylamino)-piperidine | 10 g | OC(CN1CCC(CC1)NCCNC1=CC=CC=C1)COC1=C(C=CC=C1)OC | C23H33N3O3
reactant | sodium hydroxide | 3N | [OH-].[Na+]
reactant | potassium hydroxide | 6N | [OH-].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 1-{1-[2-hydroxy-3-(2-methoxy-phenyloxy)-propyl]-4-piperidyl}-3-phenyl-imidazolidin-2-one-hydrochloride | Cl.OC(CN1CCC(CC1)N1C(N(CC1)C1=CC=CC=C1)=O)COC1=C(C=CC=C1)OC | InChI=1S/C24H31N3O4.ClH/c1-30-22-9-5-6-10-23(22)31-18-21(28)17-25-13-11-20(12-14-25)27-16-15-26(24(27)29)19-7-3-2-4-8-19;/h2-10,20-21,28H,11-18H2,1H3;1H
